US04868174
To a solution of benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate trifluoroacetate (syn isomer) (0.9 g) in dichloromethane (2.7 ml) were added anisole (0.9 ml) and trifluoroacetic acid (1.8 ml) under ice-cooling. After stirring for 1 hour at room temperature, the mixture was poured into diisopropyl ether (50 ml). The resulting precipitate was collected by filtration, washed with diisopropyl ether, and dissolved in 5% sodium bicarbonate solution. The aqueous solution was adjusted to pH 2.5 with 1N hydrochloricacid, and subjected to column chromatography on non-ionic adsorption resin "HP-20". The desired product was eluted with 5% diisopropyl ether and the eluate was concentrated and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate (syn isomer) (0.25 g).

reactant | benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate trifluoroacetate | 0.9 g | FC(C(=O)[O-])(F)F.O1C(CCCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | anisole | 0.9 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 2.7 ml | ClCCl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate | 0.25 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O)=NO | C18H22N6O5S2
